US09388195B2
B) Production of (2Z)-3-(1-benzyl-3-methyl-1H-pyrazol-4-yl)-3-chloroprop-2-enenitrile
To N,N-dimethylformamide (13.4 g) was added phosphorus oxychloride (28.1 g) by small portions under ice-cooling, and the mixture was stirred at room temperature for 15 min. Thereto was added 1-(1-benzyl-3-methyl-1H-pyrazol-4-yl)ethanone (9.80 g) produced above by small portions under ice-cooling, and the reaction mixture was stirred at 50° C. for 30 min. Thereto was added hydroxylamine hydrochloride in a powder (25.4 g) at 50° C. by small portions, and the reaction mixture was stirred at 50° C. for 30 min. Ice water (200 mL) was added to the reaction mixture, and the mixture was neutralized with 1M aqueous sodium hydroxide solution, and extracted with ethyl acetate (100 mL×2). The combined organic layers were washed with brine (20 mL) and dried over anhydrous magnesium sulfate. Insoluble material was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) and crystallized from diethyl ether to give the title compound (5.73 g) as a pale-yellow powder.

reactant | phosphorus oxychloride | 28.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(1-benzyl-3-methyl-1H-pyrazol-4-yl)ethanone | 9.80 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(C)=O)C | C13H14N2O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | N,N-dimethylformamide | 13.4 g | CN(C=O)C | C3H7NO
product | (2Z)-3-(1-benzyl-3-methyl-1H-pyrazol-4-yl)-3-chloroprop-2-enenitrile | 5.73 g | C(C1=CC=CC=C1)N1N=C(C(=C1)/C(=C/C#N)/Cl)C | C14H12ClN3
